US04124605
To a solution of 6.7 g (0.020 mole) of 4-(2-bromo-3-benzofuranyl)phenylacetic acid, 2.5 g (0.030 mole) of cyclohexene in 150 ml of acetic acid is added dropwise 2.8 g (0.030 mole) of dinitrogen tetroxide in 20 ml of acetic acid. After six hours the mixture is poured into cold water. A yellow gum separates which is dissolved in diethyl ether. The ether is washed four times with water then extracted six times with 100 ml of cold 0.5 N sodium hydroxide solution. The basic extracts are warmed to evaporate any residual ether, then poured into cold dilute hydrochloric acid. The yellow product is separated by filtration and dissolved in dichloromethane. The dichloromethane solution is washed with water and saturated sodium chloride solution then dried over magnesium sulfate. The organic solution is then evaporated to provide a yellow powder. The product is 4-(2-nitro-3-benzofuranyl)phenylacetic acid which is recrystallized from aqueous ethanol, a benzene-hexene mixture, then isopropyl alcohol to provide yellow crystals, m.p. 175°-178° C.

reactant | 4-(2-bromo-3-benzofuranyl)phenylacetic acid | 0.020 mole, 6.7 g | BrC=1OC2=C(C1C1=CC=C(C=C1)CC(=O)O)C=CC=C2 | C16H11BrO3
reactant | cyclohexene | 0.030 mole, 2.5 g | C1=CCCCC1 | C6H10
reactant | dinitrogen tetroxide | 0.030 mole, 2.8 g | [N+](=O)([N+](=O)[O-])[O-] | N2O4
reactant | 4-(2-nitro-3-benzofuranyl)phenylacetic acid | [N+](=O)([O-])C=1OC2=C(C1C1=CC=C(C=C1)CC(=O)O)C=CC=C2 | C16H11NO5
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | benzene hexene | C1=CC=CC=C1.C=CCCCC | InChI=1S/C6H6.C6H12/c1-2-4-6-5-3-1;1-3-5-6-4-2/h1-6H;3H,1,4-6H2,2H3
